US09399637B2
1-(9-((5-chloro-2-((2,3-dimethyl-2H-indazol-6-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)ethanone
To a suspension of N4-(9-azaspiro[5.5]undecan-3-yl)-5-chloro-N2-(2,3-dimethylindazol-6-yl)pyrimidine-2,4-diamine (0.10 g, 0.23 mmol) in anhydrous DCM (10.0 mL) were added N,N-diethylethanamine (0.036 g, 0.35 mmol) and acetyl acetate (0.029 g, 0.29 mmol). The mixture was stirred at room temperature for 30 min then diluted with DCM (40 mL), washed with water (20 mL×2), followed by saturated NaHCO3 (20 mL) and brine (20 mL), then dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=30/1 to 15/1) to give the title compound as a light green solid (75 mg, 68%).

reactant | N4-(9-azaspiro[5.5]undecan-3-yl)-5-chloro-N2-(2,3-dimethylindazol-6-yl)pyrimidine-2,4-diamine | 0.23 mmol, 0.10 g | C1CC(CCC12CCNCC2)NC2=NC(=NC=C2Cl)NC=2C=CC1=C(N(N=C1C2)C)C | C23H30ClN7
reactant | N,N-diethylethanamine | 0.35 mmol, 0.036 g | C(C)N(CC)CC | C6H15N
reactant | acetyl acetate | 0.29 mmol, 0.029 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 10.0 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-(9-((5-chloro-2-((2,3-dimethyl-2H-indazol-6-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)ethanone | 75 mg, 68% | ClC=1C(=NC(=NC1)NC=1C=CC2=C(N(N=C2C1)C)C)NC1CCC2(CCN(CC2)C(C)=O)CC1 | C25H32ClN7O
